US07652023B2
At −78° C. to a solution of N-((5-chloropyridin-2-yl)(3-fluoro-5-(trifluoromethyl)phenyl)methylene)-1-methyl-1H-tetrazol-5-amine (135 mg, 0.35 mmol) in CH2Cl2 (2 mL) was added BnMgCl (0.4 mL, 1 M in ether, 0.4 mol) drop wise. The reaction mixture was stirred at −78° C. for 5 min, then was allowed to slowly warm up to room temperature. After 30 min, the reaction mixture was quenched by saturated NH4Cl, extracted by CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by ISCO chromatography (12 g column) using hexanes/EtOAc (0-20%) over 16 min to give N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-1-methyl-1H-tetrazol-5-amine as a yellow solid (26 mg, 16% yield). LCMS RT=4.05 min [M+H] 477.26 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm). NMR: 400 MHz 1H (CDCl3) 8.34 ppm, 1H, d, J=2.02 Hz; 7.63 ppm, 2H, m; 7.39 ppm, 1H, d, J=9.85 Hz; 7.25 ppm, 1H, d, J=3.79 Hz; 7.21 ppm, 1H, d, J=8.08 Hz; 7.11 ppm, 2H, m; 7.02 ppm, 2H, t, J=7.33 Hz; 6.42 ppm, 2H, d, J=7.07 Hz; 4.40 ppm, 1H, d, J=13.14 Hz; 4.09 ppm, 3H, s; 3.68 ppm, 1H, d, J=13.14 Hz.

reactant | N-((5-chloropyridin-2-yl)(3-fluoro-5-(trifluoromethyl)phenyl)methylene)-1-methyl-1H-tetrazol-5-amine | 0.35 mmol, 135 mg | ClC=1C=CC(=NC1)C(=NC1=NN=NN1C)C1=CC(=CC(=C1)C(F)(F)F)F | C15H9ClF4N6
reactant | BnMgCl | 0.4 mol, 1 M, 0.4 mL | C(C1=CC=CC=C1)[Mg]Cl
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-1-methyl-1H-tetrazol-5-amine | 26 mg, 16% yield | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)NC1=NN=NN1C | C22H17ClF4N6
